US05990346
Tris(dibenzylideneacetone)dipalladium(0) (11.4 mg, 0.0125 mmol), triphenylphosphine (13.1 mg, 0.05 mmol), zinc (powder) (36.8 mg, 56.3 mmol), and methyl (11R,12S,13E,15S,17R)-9-trifluoromethanesulfonyloxy-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate (218 mg, 0.282 mmol) in tetrahydrofuran (5 mL) were placed in an autoclave reactor, a small sized container of trifluoromethyl iodide was connected, and the inside of the reaction vessel was made the same pressure as the inside of the small sized container. The reaction vessel was made to vibrate in trifluoromethyl iodide atmosphere for 1 hour by an ultrasonic wave washer. Next, the unreacted trifluoromethyl iodide in the reaction vessel was removed to obtain the reaction solution which was passed through Florisil column. The solution thus obtained was concentrated under reduced pressure, then was purified by silica gel column chromotography (4to 10% ethyl acetate/hexane) to obtain methyl (11R,12S,13E,15S,17R)-9-trifluoromethyl-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate (72 mg, 36%).

reactant | triphenylphosphine | 0.05 mmol, 13.1 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl (11R,12S,13E,15S,17R)-9-trifluoromethanesulfonyloxy-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate | 0.282 mmol, 218 mg | FC(S(=O)(=O)OC1=C(SCCCCCC(=O)OC)[C@H]([C@@H](C1)O[Si](C)(C)C(C)(C)C)\C=C\[C@H](C[C@@H](CCCC)C)O[Si](C)(C)C(C)(C)C)(F)F | C35H65F3O7S2Si2
reactant | Florisil | [O-][Si](=O)[O-].[Mg+2]
reactant | trifluoromethyl iodide | FC(F)(F)I | CF3I
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.0125 mmol, 11.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | zinc | 56.3 mmol, 36.8 mg | [Zn] | Zn
product | methyl (11R,12S,13E,15S,17R)-9-trifluoromethyl-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate | 72 mg, 36% | FC(C1=C(SCCCCCC(=O)OC)[C@H]([C@@H](C1)O[Si](C)(C)C(C)(C)C)\C=C\[C@H](C[C@@H](CCCC)C)O[Si](C)(C)C(C)(C)C)(F)F | C35H65F3O4SSi2
